US04221737
1-Nitro-2-(3-butyn-2-ylamino)-2-{2-[(4-methyl-1H-imidazol-5-yl)-methylthio]ethylamino}ethylene
A mixture of 1-nitro-2-methylthio-2-{2-[(4-methyl-1H-imidazol-5-yl)methylthio]ethylamino}ethylene (3.13 g, 10.9 mmole) and 3-amino-1-butyne (4.5 g, 65.1 mmole) in acetonitrile (45 ml) was stirred at reflux temperature under a positive pressure of nitrogen for 17 hours. The reaction mixture was evaporated under reduced pressure then the residue placed on silica gel and chromatographed by gradient elution using methylene chloride-methanol. Recrystallization yielded the title compound.

reactant | 1-nitro-2-methylthio-2-{2-[(4-methyl-1H-imidazol-5-yl)methylthio]ethylamino}ethylene | 10.9 mmole, 3.13 g | [N+](=O)([O-])C=C(NCCSCC1=C(N=CN1)C)SC | C10H16N4O2S2
reactant | 3-amino-1-butyne | 65.1 mmole, 4.5 g | NC(C#C)C | C4H7N
solvent | acetonitrile | 45 ml | C(C)#N | C2H3N
product | 1-Nitro-2-(3-butyn-2-ylamino)-2-{2-[(4-methyl-1H-imidazol-5-yl)-methylthio]ethylamino}ethylene | [N+](=O)([O-])C=C(NCCSCC1=C(N=CN1)C)NC(C)C#C | C13H19N5O2S
